US06713602B1
N-(N-tert-Butyloxycarbonyl-aminomethyl)-N-(N1-thyminylacetyl)-β-alanine
A solution of N-(N-tert-butyloxycarbonyl-aminomethyl)-N-(N1-thyminylacetyl)-β-alanine ethylester (5.45 g, 13.2 mmol) in THF (80 mL) and aqueous LiOH (0.5 M, 80 mL) was stirred at room temperature for 1 hour and extracted with ethyl acetate. The aqueous layer was acidified to pH 3.5 by dropwise addition of hydrochloric acid (4 M) and kept at 4° C. for 3 hours. The colorless precipitate was filtered, rinsed with water and dried in vacuo to give 4.40 g of the title compound, mp 196° C. (dec.). The filtrate was extracted with ethyl acetate, the organic phase dried over Na2SO4 and the solvent was removed under reduced pressure. The residue was crystallized from MeOH/ethyl acetate/hexane to give 280 mg additional title compound for an overall yield of 92%. TLC (CHCl3/MeOH/NEt3 7:2:1, UV-detection): Rf(N-(N-tert-butyloxycarbonyl-aminomethyl)-N-(N1-thyminylacetyl)-β-alanine ethylester)=0.94, Rf(the title compound)=0.52). 1H NMR (DMSO-d6) (two rotamers, ratio 3:1) δ1.46, 1.50* (2s, 9H, t-Bu), 1.83 (s, 3H, T-CH3), 2.52*, 2.73 (2t, J=7.5 Hz, 2H, NCH2CH2), 3.54*, 3.64 (2t, J=7.3 Hz, 2H, NCH2CH2), 4.64, 4.69 (2d, J=6.4 Hz, J=7.0 Hz. 13C NMR (major rotamer) (DMSO-d6) δ11.9 (T, CH3), 28.1 (t-Bu-CH3), 32.2 (CH2CO), 41.6 (NCH2CH2), 48.1 (T(N1)CH2), 53.2 (NCH2N), 60.0 (OCH2), 78.9 (C(CH3)3) 108.2 (T, CCH3), 142.0 (CH), 151.1(T, NC(O)N), 155.7 (carbamate C═O), 164.4 (T, C═O), 166.9 (tert. amide C═O), 172.7 (carboxylic acid C═O) ppm. FAB-MS: m/z=385.15 (M+H)+. Anal. Calcd. for C16H24N4O7 (384.39): C, 50.00; H, 6.29; N, 14.58. found C, 49.95, H, 6.40; N, 14.23.

reactant | N-(N-tert-butyloxycarbonyl-aminomethyl)-N-(N1-thyminylacetyl)-β-alanine ethylester | 13.2 mmol, 5.45 g | C(C)OC(CCN(C(CN1C(=O)NC(=O)C(C)=C1)=O)CNC(=O)OC(C)(C)C)=O | C18H28N4O7
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | LiOH | 0.5 M, 80 mL | [Li+].[OH-]
product | N-(N-tert-Butyloxycarbonyl-aminomethyl)-N-(N1-thyminylacetyl)-β-alanine | 4.40 g, yield of 92% | C(C)(C)(C)OC(=O)NCN(CCC(=O)O)C(CN1C(=O)NC(=O)C(C)=C1)=O | C16H24N4O7
